US04655819
2-[2-Fluoro-4-(6-chloroquinoxalin-2-yloxy)phenoxy]-propionic acid (1.73 g; 4.77 mmole) was treated with thionyl chloride and the mixture was heated under reflux with stirring for a period of 5 hours. The excess thionyl chloride was removed by distillation under reduced pressure to give 2-[2-fluoro-4-(6-chloroquinoxalin-2-yloxy)phenoxy]-propionyl chloride as a straw coloured oil.

reactant | 2-[2-Fluoro-4-(6-chloroquinoxalin-2-yloxy)phenoxy]-propionic acid | 4.77 mmole, 1.73 g | FC1=C(OC(C(=O)O)C)C=CC(=C1)OC1=NC2=CC=C(C=C2N=C1)Cl | C17H12ClFN2O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-[2-fluoro-4-(6-chloroquinoxalin-2-yloxy)phenoxy]-propionyl chloride | FC1=C(OC(C(=O)Cl)C)C=CC(=C1)OC1=NC2=CC=C(C=C2N=C1)Cl | C17H11Cl2FN2O3
